US08383644B2
(S)-3-[2-(4-Acetoxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-2-tert-butoxycarbonylamino-propionic acid methyl ester was converted to the HCl salt of (S)-3-[2-(4-acetoxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-2-amino-propionic acid methyl ester according to General Procedure C. This intermediate (450 mg) was dissolved in dioxane (32 mL) and TFA (8 mL). To this solution was added paraformaldehyde (60 mg) and stirred at rom temperature for 6 hours. After completion of the reaction, the mixture was poured into water (100 mL) and extracted with EtOAc. The organic layer was neutralized to a pH of 7 using NaHCO3 and washed with water and brine, and dried to get an oil. The oil was taken in fresh DCM (200 mL) and Boc anhydride and DIEA (3 mL) were added. The mixture was stirred for 2-3 h and the organic layer was separated, washed dried and concentrated and purified (silica; hexanes/EtOAc, 8:2 to 7:3) to get (3S,8S)-3-(4-acetoxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester. This Boc ester (485 mg) was dissolved in methanol (20 mL). To this solution was added NaHCO3 (2.0 g). The mixture was stirred at room temperature for 3 h. After completion of the reaction, the mixture was poured into water (200 mL) and was extracted with EtOAc (300 mL). The organic layer was washed with water, brine, dried and concentrated to get the desired product as a white solid (380 mg). This intermediate was coupled with cyclohexane methanol according to General Procedure K furnished (3S,8S)-3-(4-cyclohexylmethoxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester. This ester upon hydrolysis according to General Procedure B furnished (3S,8S)-3-(4-cyclohexylmethoxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester (C). LCMS (m/z): 525.

reactant | (S)-3-[2-(4-Acetoxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-2-tert-butoxycarbonylamino-propionic acid methyl ester | COC([C@H](CC1=CC2=C(OC(CO2)C2=CC=C(C=C2)OC(C)=O)C=C1)NC(=O)OC(C)(C)C)=O | C25H29NO8
reactant | HCl | Cl | ClH
reactant | (S)-3-[2-(4-acetoxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-2-amino-propionic acid methyl ester | COC([C@H](CC1=CC2=C(OC(CO2)C2=CC=C(C=C2)OC(C)=O)C=C1)N)=O | C20H21NO6
reactant | paraformaldehyde | 60 mg | C=O | CH2O
reactant | Boc anhydride | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIEA | 3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 32 mL | O1CCOCC1 | C4H8O2
solvent | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | (3S,8S)-3-(4-acetoxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester | COC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OC(C)=O)C(=O)OC(C)(C)C | C26H29NO8
